Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ace Inhibitors / Amoxicillin / Lasix
 
Attending: ___.
 
Chief Complaint:
Nausea/Vomiting
 
Major Surgical or Invasive Procedure:
None during this admission
 
History of Present Illness:
Ms. ___ is a ___ female with grade IIIB
follicular lymphoma s/p R-EPOCH, HIV, HFrEF (EF 35% in ___,
CKD, DMII, and recently diagnosed stage IIIC HPV-positive
squamous cell carcinoma of the anus on chemoradiation who
presents with nausea and vomiting.

She reports acute worsening of nausea with vomiting at around
1PM. She has multiple episodes of non-bloody emesis. Also notes
some mild shortness of breath, lower abdominal pain, and loose
stools. She does not know trigger for vomiting.

Patient recently admitted ___ to ___ for severe mouth pain 
and
ongoing anal pain for which she initially required dilaudid PCA.
Also with diarrhea and found to have colitis on imaging thought
to be due to radiation colitis. CPS was consulted and she
declined ganglion impar lytic block. Also declined
gabapentin/lyrica. Nausea managed with Ativan and Aloxi due to
prolonged QTc. Started on Dronabinol.

On arrival to the ED, initial vitals were 97.8 124 157/98 14 98%
RA. No exam documented. Labs were notable for WBC 5.6, H/H
11.4/36.7, Plt 272, INR 1.2, Na 134, K 4.3, BUN/Cr ___, LFTs
wnl, lactate 2.8, and UA with small leuks, neg nitrite, 13 WBCs,
and few bacteria. Urine and blood cultures were sent. CXR showed
no acute cardiopulmonary process. Abdominal CT showed persistent
but improved wall thickening and adjacent inflammatory change of
the descending colon and sigmoid colon. She was given zorfran 
4mg
PO, Ativan 0.5mg IV x 2, dilaudid 1mg IV x 2, Zofran 4mg IV,
ceftriaxone 1g IV, flagyl 500mg IV, and 1L LR. Prior to transfer
vitals were 97.9 90 181/101 16 97% RA.

On arrival to the floor, patient reports continued nausea and
abdominal discomfort. She has mild headache. She denies fevers,
vision changes, dizziness/lightheadedness, weakness/numbness,
cough, hemoptysis, chest pain, palpitations, hematemesis,
hematochezia/melena, dysuria, hematuria, and new rashes.
 
Past Medical History:
- HIV
- Follicular Lymphoma (grade IIIb) s/p 6 cycles R-EPOCH in
___
- Diverticulitis
- HFrEF
- Hypertension
- Hyperlipidemia
- DMII
- Stage III CKD
- Migraine Headache
- Hypothyroidism
- Anemia
- Gastroparesis
- OSA
- Thalassemia
- Morbid Obesity
- Mitral Regurgitation
- s/p laparoscopic pelvic abscess drainage, right salpingectomy,
and axillary LN dissection on ___
- s/p C-section
- s/p hysterectomy
- s/p cholecystectomy
 
Social History:
___
Family History:
Sister with unknown cancer.
 
Physical Exam:
GENERAL: NAD; pleasant and cooperative
EYES: EOMI, anicteric
HEENT: Oropharynx clear, moist mucous membranes; vesicles noted 
over R forehead in V1 distribution, no crossing midline, no 
drainage or crusting noted
NECK: Supple, normal range of motion
LUNGS: CTAB; no wheezing or rales
CV: RRR; no murmurs, distal perfusion intact w/o peripheral 
edema
ABD: BS+; Soft, nontender, nondistended, normoactive bowel 
sounds
GENITOURINARY: No Foley
EXT: no deformity, normal muscle bulk, no peripheral edema
SKIN: warm dry, no rash
NEURO: AOx3, fluent speech
 
Pertinent Results:
___ 05:41AM BLOOD WBC-4.3 RBC-2.54* Hgb-7.2* Hct-22.6* 
MCV-89 MCH-28.3 MCHC-31.9* RDW-16.2* RDWSD-51.3* Plt ___
___ 05:41AM BLOOD Neuts-53.9 ___ Monos-11.4 
Eos-8.6* Baso-0.5 Im ___ AbsNeut-2.32 AbsLymp-1.07* 
AbsMono-0.49 AbsEos-0.37 AbsBaso-0.02
___ 05:41AM BLOOD Plt ___
___ 06:25PM BLOOD  WBC-3.8* Lymph-11* Abs ___ CD3%-92 
Abs CD3-384* CD4%-55 Abs CD4-230* CD8%-38 Abs CD8-158* 
CD4/CD8-1.46
___ 05:41AM BLOOD Glucose-110* UreaN-5* Creat-1.0 Na-143 
K-3.9 Cl-113* HCO3-22 AnGap-8*
___ 05:41AM BLOOD ALT-7 AST-9
___ 05:41AM BLOOD Albumin-2.6* Calcium-7.9* Phos-2.7 Mg-1.8
___ 04:42AM URINE Color-Straw Appear-Clear Sp ___
___ 04:42AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NORMAL pH-6.0 
Leuks-MOD*
___ 04:42AM URINE RBC-4* WBC-19* Bacteri-MOD* Yeast-NONE 
Epi-<1
___ 04:42AM URINE WBC Clm-OCC* Mucous-OCC*
 
Brief Hospital Course:
Nausea/Vomiting
- IMP: No clear etiology though perhaps pt unable to tolerate PO 
anti-emetics at home. ___ have also been from radiation. Last 
chemo noted on ___. Last admission had severe sxs that were 
difficult to manage d/t prolonged QTc
Plan
- Compazine BID, IV/PO ativan PRN
- hold zofran given QTc prolongation
- CTM QTc, most recently 479 (459 on admission)
- IVF PRN when not taking PO

R forehead zoster/shingles
- In setting of recent chemo, HIV on HAART, acute illness. 
Unclear if pt received shingles vaccine
Plan
- Ophtho recs appreciated- considering intravitreal injection if 
pt w/ worsening lesions
- ID recs appreciated
- c/w ValACYclovir 1000mg PO q8h thru ___
- gabapentin for neuralgia
- Local Zoster/Shingles precautions
- will consider derm consult if lesions persistent and not 
crusting over after weekend

Diarrhea/Colitis
- Likely ___ radiation. Colitis on imaging appears improved.
- Hold further abx
- Continue loperamide PRN

?UTI
- IMP: endorses dysuria
- UA- grossly positive
Plan
- started Macrobid ___ PO BID (day 1 of 5)
- F/u UCx- pending

Stage IIIC HPV+ Squamous Cell Carcinoma of the Anus
- follows w/ Atrius Oncology; discussed plan today
- Recently started on chemoradiation
- c/w radiation while inpatient, will get next dose today 
(___)
- she has scheduled f/u appt on ___ for next chemo 
session
- c/w home oxycontin, oxycodone, and standing tylenol

Anemia of Malignancy
- Hgb noted 6.8 -> 7.2; no evidence of gross bleeding on exam
- s/p 1 unit pRBC ___
Plan
- maintain active type/screen
- monitor w/ daily labs

Nonischemic CM/HTN
- c/w home metoprolol
- furosemide and spironolactone on hold since last admission
- will continue to monitor

___ on CKD Stage III
- Improving. Suspect prerenal etiology in setting of decreased 
PO intake, possibly intrinsic disease given HTN, DM, and recent 
acyclovir administration
- c/w IVF 125cc/hr NS
- avoid nephrotoxic meds, renally dose medications

DMII
- c/w home lantus w/ Humalog ISS, decreased lantus dose in 
setting of decreased PO intake

HIV
- c/w home lamivudine and dolutegravir

Hypothyroidism
- c/w home levothyroxine

Suspected protein calorie malnutrition
- In setting of nausea, vomiting, and malignancy
- nutrition consult
- will attempt remeron 15mg qhs to help w/ appetite and sleep
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dolutegravir 50 mg PO DAILY 
2. LamiVUDine 300 mg PO DAILY 
3. Levothyroxine Sodium 300 mcg PO DAILY 
4. OxyCODONE (Immediate Release) 45 mg PO Q3H:PRN Pain - 
Moderate 
5. OxyCODONE SR (OxyCONTIN) 160 mg PO Q8H 
6. Acetaminophen (Liquid) 1000 mg PO Q8H 
7. Lidocaine 5% Ointment 1 Appl TP BID:PRN anal pain 
8. Docusate Sodium 100 mg PO BID:PRN constipation 
9. Witch ___ 50% Pad ___SDIR 
10. Hyoscyamine SO4 (Time Release) 0.125 mg PO Q4H:PRN stomach 
pain 
11. Naloxone Nasal Spray 4 mg IH ONCE MR1 opiod overdose 
12. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
13. Senna 8.6 mg PO BID:PRN constipation 
14. Metoprolol Succinate XL 12.5 mg PO DAILY 
15. Dronabinol 2.5 mg PO BID 
16. Prochlorperazine 10 mg PO TID:PRN nausea/vomiting 
17. LORazepam 0.5 mg IV DAILY:PRN prior to XRT 
18. LOPERamide 2 mg PO QID:PRN diarrhea 
19. Glargine 12 Units Breakfast

 
Discharge Medications:
1.  Gabapentin 300 mg PO DAILY 
RX *gabapentin 300 mg 1 capsule(s) by mouth once a day Disp #*20 
Capsule Refills:*0 
2.  Mirtazapine 15 mg PO QHS 
RX *mirtazapine 15 mg 1 tablet(s) by mouth at bedtime Disp #*20 
Tablet Refills:*0 
3.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO BID 
RX *nitrofurantoin monohyd/m-cryst [Macrobid] 100 mg 1 
capsule(s) by mouth twice a day Disp #*10 Capsule Refills:*0 
4.  ValACYclovir 1000 mg PO Q8H 
RX *valacyclovir 1,000 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*15 Tablet Refills:*0 
5.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
6.  Glargine 10 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin 
7.  Docusate Sodium 100 mg PO BID:PRN constipation  
8.  Dolutegravir 50 mg PO DAILY  
9.  Dronabinol 2.5 mg PO BID 
RX *dronabinol 2.5 mg 1 capsule(s) by mouth twice a day Disp 
#*20 Capsule Refills:*0 
10.  Hyoscyamine SO4 (Time Release) 0.125 mg PO Q4H:PRN stomach 
pain  
11.  LamiVUDine 300 mg PO DAILY  
12.  Levothyroxine Sodium 300 mcg PO DAILY  
13.  Lidocaine 5% Ointment 1 Appl TP BID:PRN anal pain  
14.  LOPERamide 2 mg PO QID:PRN diarrhea  
15.  LORazepam 0.5 mg IV DAILY:PRN prior to XRT  
16.  Metoprolol Succinate XL 12.5 mg PO DAILY  
17.  Naloxone Nasal Spray 4 mg IH ONCE MR1 opiod overdose  
18.  OxyCODONE (Immediate Release) 45 mg PO Q3H:PRN Pain - 
Moderate 
RX *oxycodone 20 mg 2 tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0 
19.  OxyCODONE SR (OxyCONTIN) 160 mg PO Q8H  
20.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
21.  Prochlorperazine 10 mg PO TID:PRN nausea/vomiting 
RX *prochlorperazine maleate [Compazine] 10 mg 1 tablet(s) by 
mouth three times a day Disp #*20 Tablet Refills:*0 
22.  Senna 8.6 mg PO BID:PRN constipation  
23.  Witch ___ 50% Pad ___SDIR  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Nausea/Vomiting
R forehead zoster/shingles
UTI
HIV
Stage IIIC HPV+ Squamous Cell Carcinoma of the Anus
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mrs. ___,

___ was a pleasure taking care of you while you were hospitalized 
at ___. As you know, you were admitted for further evaluation 
of nausea and vomiting which was attributed to ongoing 
chemotherapy. An initial infectious workup did not reveal any 
infections. You were found to have Shingles involving the Right 
forehead. You were started on IV antiviral medication which has 
now been transitioned to oral tablets. You required one unit of 
blood during this hospitalization. You were followed closely by 
a team of Infectious Disease and Ophthalmology specialists 
during the course of the hospital admission. You were also found 
to have a UTI and was therefore started on antibiotics which you 
will continue as prescribed.

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL?
- please follow-up with Dr. ___ on ___ for your next regularly 
scheduled chemotherapy session
- you will continue to receive daily radiation for an additional 
11 sessions 

We wish you all the best!

Sincerely,
Your care team at ___
 
Followup Instructions:
___